US07282512B2
[1-(3-phenylpropyl)cyclobutyl]methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate was prepared as in example 6c except that [1-(3-phenylpropyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate was substituted for [1-(2-phenylethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate. M.P.=91-93° C. Elemental analysis: Theory; C=73.14%, H=8.18%, N=5.69%. Found; C=72.81%, H=8.22%, N=5.82%. 1H NMR (400 MHz, DMSO-d6) δ 9.10 (d, J=8 Hz, 1H), 7.45 (d, J=8 Hz, 1H), 7.11-7.26 (m, 10H), 4.91 (qnt, J=8 Hz, 1H), 4.70 (m, 1H), 3.85 (s, 2H), 2.50 (m, 2H), 1.55-1.74 (m, 6H), 1.13-1.45 (m, 13H), 0.74 (t, J=7 Hz, 13H). ES-LCMS m/z 515 (M+Na). HRMS C30H40N2O4 m/z 515.2886 (M+Na)Cal; 515.2891 (M+Na)Obs.

reactant | [1-(3-phenylpropyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CCCC1=CC=CC=C1)=O | C30H42N2O4
reactant | [1-(2-phenylethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCC)NC(OCC1(CCC1)CCC1=CC=CC=C1)=O | C29H40N2O4
product | [1-(3-phenylpropyl)cyclobutyl]methyl(1S)-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | O=C(C(=O)[C@H](CCCC)NC(OCC1(CCC1)CCCC1=CC=CC=C1)=O)N[C@H](C)C1=CC=CC=C1 | C30H40N2O4
